US04043796
27 g of chlorosulfuric acid were slowly added at 0° C to a mixture of 12 g of ethylene sulfide and 200 ml of methylene chloride and the mixture was stirred at 0° C for 10 minutes and was then cooled to -20° C. A mixture of 32.6 g of N-methyl-N'-(3,4-dichlorophenyl)-urea in 210 ml of pyridine was added to the reaction mixture after which the temperature returned to 0° C. The mixture was stirred at 0° C for 10 minutes and was then poured into a mixture of ice, water, hydrochloric acid and methylene chloride. The mixture was stirred for 30 minutes and the decanted organic phase was washed, dried, filtered and concentrated to dryness under reduced pressure. The residue was chromatographed over silica gel and the product was eluted witn 9-1 benzene-ethyl acetate mixture and was crystallized from isopropyl ether to obtain 10 g of N-(2-chloroethylthio)-N-methyl-N'-(3,4-dichlorophenyl)-urea melting at 62° C.

reactant | chlorosulfuric acid | 27 g | S(O)(=O)(=O)Cl | ClHO3S
reactant | ethylene sulfide | 12 g | C1CS1 | C2H4S
reactant | N-methyl-N'-(3,4-dichlorophenyl)-urea | 32.6 g | CNC(=O)NC1=CC(=C(C=C1)Cl)Cl | C8H8Cl2N2O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 210 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-(2-chloroethylthio)-N-methyl-N'-(3,4-dichlorophenyl)-urea | 10 g | ClCCSN(C(=O)NC1=CC(=C(C=C1)Cl)Cl)C | C10H11Cl3N2OS
